US08049016B2
Synthesis of (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylisoxazol-3-yl)methyl)thiazole-5-carboxamide
Following the procedure as described in Example 2, making variations as required to replace pyridin-3-ylmethanamine with (5-methylisoxazol-3-yl)methanamine and replace (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white solid (70%): mp 174-175° C. (N,N-dimethylformamide/water); 1H NMR (300 MHz, DMSO-d6) δ 8.48 (t, J=5.8 Hz, 1H), 7.37-7.32 (m, 2H), 7.23-7.17 (m, 2H), 6.13 (d, J=0.7 Hz, 1H), 4.58-4.52 (m, 1H), 4.43 (d, J=4.3 Hz, 2H), 4.36 (d, J=5.8 Hz, 2H), 3.64-3.58 (m, 1H), 3.04 (dd, J=9.0, 3.4 Hz, 1H), 2.48 (s, 3H), 2.37 (d, J=0.7 Hz, 3H), 1.39 (d, J=6.0 Hz, 3H); MS (ES+) m/z 443.8 (M+1).

reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
reactant | (5-methylisoxazol-3-yl)methanamine | CC1=CC(=NO1)CN | C5H8N2O
reactant | (S)-2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
reactant | (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N([C@H](C2)C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
product | (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methyl-N-((5-methylisoxazol-3-yl)methyl)thiazole-5-carboxamide | FC1=CC=C(CN2C(N([C@H](C2)C)C=2SC(=C(N2)C)C(=O)NCC2=NOC(=C2)C)=O)C=C1 | C21H22FN5O3S
